US05852142
2,5,6,7-Tetramethyl-1-indanone (9)
17.3 g (125 mmol) of AlCl3 were added to a solution of 6.01 g (50 mmol) of 1,2,3-trimethylbenzene in 30 ml of analytical grade methylene chloride, while cooling with ice. 11.9 g (52 mmol) of 2-bromoisobutyryl bromide were then added rapidly, and stirring was continued at 0° C. for 1 hour and at room temperature for 2 hours. The mixture was kept at room temperature for a further 15 hours and then worked up analogously to Example A. The crude product was purified by distillation (0.05 mm Hg/96°-107° C.). The yield was 8.1 g (86%).

reactant | AlCl3 | 125 mmol, 17.3 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | 1,2,3-trimethylbenzene | 50 mmol, 6.01 g | CC1=C(C(=CC=C1)C)C | C9H12
reactant | 2-bromoisobutyryl bromide | 52 mmol, 11.9 g | BrC(C(=O)Br)(C)C | C4H6Br2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2,5,6,7-Tetramethyl-1-indanone | CC1C(C2=C(C(=C(C=C2C1)C)C)C)=O | C13H16O
